US08709747B2
Air was removed from a solution of 2,7-diiodo-9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene (0.452 g, 0.636 mmol) in 7.5 mL of toluene/Et3N (4/1) by blowing argon for 20 min. Then CuI (5 mg, 4 mol %), Pd(PPh3)2Cl2 (18 mg, 4 mol %) and 2-methyl-3-butyn-2-ol (0.185 mL, 1.9 mmol) were added, and the mixture was stirred at ° C. for 18 h. The completion of the reaction was monitored by TLC. After evaporation of the solvents, the residue was purified by column chromatography on silica gel (CH2Cl2/AcOEt 20:80 then AcOEt) to yield 0.372 g (94%) of 4,4′-[9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene-2,7-diyl]bis(2-methyl-3-butyn-2-ol): 1H NMR (CDCl3) δ 1.66 (s, 12H), 2.34 (s, 2H), 2.36 (t, 4H, J=6.9 Hz), 2.72 (t, 4H, J=6.9 Hz), 3.18 (m, 4H), 3.36 (s, 6H), 3.38 (m, 4H), 3.56-3.48 (m, 8H), 7.41 (dd, 2H, J=7.8 Hz, J=1.2 Hz), 7.47 (d, 2H, J=1.2 Hz), 7.59 (d, 2H, J=7.8 Hz); 13C NMR (CDCl3) δ 15.3, 31.5, 39.6, 51.3, 59.0, 65.6, 66.8, 70.0, 70.4, 71.8, 82.6, 94.5, 112.0, 121.8, 126.6, 131.1, 139.8, 149.2.

reactant | 2,7-diiodo-9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene | 0.636 mmol, 0.452 g | IC1=CC=2C(C3=CC(=CC=C3C2C=C1)I)(CCOCCOCCOC)CCOCCOCCOC | C27H36I2O6
reactant | 4,4′-(9,9-Dibutyl-9H-fluorene-2,7-diyl)bis(2-methyl-3-butyn-2-ol) | 1.9 mmol, 0.185 mL | C(CCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C#CC(C)(O)C)C#CC(C)(O)C)CCCC | C31H38O2
solvent | toluene Et3N | 7.5 mL | C1(=CC=CC=C1)C.CCN(CC)CC
catalyst | CuI | 5 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4,4′-[9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene-2,7-diyl]bis(2-methyl-3-butyn-2-ol) | 0.372 g, 94% | COCCOCCOCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)C#CC(C)(O)C)C#CC(C)(O)C)CCOCCOCCOC | C37H50O8
